US07115611B2
[rac]-(2-Methyl-4-{1-[2-methyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-yl]-ethoxy}-phenoxy)-acetic acid
A] The title compound was prepared in analogy to example 49, via [rac]-(2-methyl-4-{1-[2-methyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-yl]-ethoxy}-phenoxy)-acetic acid ethyl ester, but using in step A] [rac]-3-(1-chloro-ethyl)-2-methyl-6-(4-trifluoromethyl-phenyl)-pyridine (example 17C]) instead of [rac]-3-(1-chloro-propyl)-2-methyl-6-(4-trifluoromethyl-phenyl)-pyridine as off-white foam.

reactant | [rac]-(2-methyl-4-{1-[2-methyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-yl]-ethoxy}-phenoxy)-acetic acid ethyl ester | C(C)OC(COC1=C(C=C(C=C1)OC(C)C=1C(=NC(=CC1)C1=CC=C(C=C1)C(F)(F)F)C)C)=O | C26H26F3NO4
reactant | [rac]-3-(1-chloro-ethyl)-2-methyl-6-(4-trifluoromethyl-phenyl)-pyridine | ClC(C)C=1C(=NC(=CC1)C1=CC=C(C=C1)C(F)(F)F)C | C15H13ClF3N
reactant | [rac]-3-(1-chloro-propyl)-2-methyl-6-(4-trifluoromethyl-phenyl)-pyridine | ClC(CC)C=1C(=NC(=CC1)C1=CC=C(C=C1)C(F)(F)F)C | C16H15ClF3N
product | [rac]-(2-Methyl-4-{1-[2-methyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-yl]-ethoxy}-phenoxy)-acetic acid | CC1=C(OCC(=O)O)C=CC(=C1)OC(C)C=1C(=NC(=CC1)C1=CC=C(C=C1)C(F)(F)F)C | C24H22F3NO4
